US07470705B2
Inject titanium(IV)isopropoxide (0.372 ml, 1.26 mmol) to a mixture of 5-ethyl-7-oxo-6,7-dihydro-5H-thieno[3,2-b]pyridine-4-carboxylic acid isopropyl ester (0.225 g, 0.842 mmol), 3,5-bis(trifluoromethyl)benzylamine (0.211 g, 0.842 mmol), and then stir at room temperature for 4 h. Inject a solution of sodium cyanoborohydride (0.212 g, 3.37 mmol) in methanol (8 ml) to the reaction mixture and continue to stir at room temperature overnight. Add another portion of solution of sodium cyanoborohydride (0.212 g, 3.37 mmol) in methanol (8 ml) and continue to stir for 4 h. Add sodium borohydride (0.159 g, 4.21 mmol) and heat the reaction at 60° C. overnight. Treat the mixture with 0.1 N sodium hydroxide (25 ml) for 10 minutes, and then filter through a Celite® pad. Wash the filtered residue thoroughly with ethyl acetate. Separate the organic layer, wash with brine (3×50 ml), dry over Na2SO4, filter and concentrate to provide crude 7-(3,5-bis-trifluoromethyl-benzylamino)-5-ethyl-6,7-dihydro-5H-thieno [3,2-b]pyridine-4-carboxylic acid isopropyl ester (0.315 g) which was elaborated without further purification. MS (ES+): 495 (M+H).

reactant | 5-ethyl-7-oxo-6,7-dihydro-5H-thieno[3,2-b]pyridine-4-carboxylic acid isopropyl ester | 0.842 mmol, 0.225 g | C(C)(C)OC(=O)N1C2=C(C(CC1CC)=O)SC=C2 | C13H17NO3S
reactant | 3,5-bis(trifluoromethyl)benzylamine | 0.842 mmol, 0.211 g | FC(C=1C=C(CN)C=C(C1)C(F)(F)F)(F)F | C9H7F6N
reactant | sodium cyanoborohydride | 3.37 mmol, 0.212 g | C(#N)[BH3-].[Na+]
reactant | sodium cyanoborohydride | 3.37 mmol, 0.212 g | C(#N)[BH3-].[Na+]
reactant | sodium borohydride | 4.21 mmol, 0.159 g | [BH4-].[Na+]
reactant | sodium hydroxide | 0.1 N, 25 ml | [OH-].[Na+]
solvent | methanol | 8 ml | CO | CH4O
solvent | methanol | 8 ml | CO | CH4O
catalyst | titanium(IV)isopropoxide | 1.26 mmol, 0.372 ml | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 7-(3,5-bis-trifluoromethyl-benzylamino)-5-ethyl-6,7-dihydro-5H-thieno [3,2-b]pyridine-4-carboxylic acid isopropyl ester | 0.315 g | C(C)(C)OC(=O)N1C2=C(C(CC1CC)NCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)SC=C2 | C22H24F6N2O2S
